US07319099B2
(b) 4-Isopropoxy-3-[4-(4-trifluoromethyl-phenyl)-piperazine-1-carbonyl]-benzoic acid
To 3.2 mmol 4-isopropoxy-3-[4-(4-trifluoromethyl-phenyl)-piperazine-1-carbonyl]-benzonitrile in 15 ml ethanol was added 30 mmol 2 M aq NaOH and the mixture was heated at 85° C. for 16 h. The mixture was then cooled to RT, diluted with water and acidified to pH 1 with conc HCl, and then extracted three times with ethyl acetate. The combined organic phases were dried with Na2SO4, concentrated in vacuo, and the residue purified by chromatography on silica gel (eluant: methanol/dichloromethane 5:95) to afford the title compound. MS (m/e): 435.3 ([M−H]−, 100%)

reactant | 4-isopropoxy-3-[4-(4-trifluoromethyl-phenyl)-piperazine-1-carbonyl]-benzonitrile | 3.2 mmol | C(C)(C)OC1=C(C=C(C#N)C=C1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C22H22F3N3O2
reactant | NaOH | 30 mmol, 2 M | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | water | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-Isopropoxy-3-[4-(4-trifluoromethyl-phenyl)-piperazine-1-carbonyl]-benzoic acid | C(C)(C)OC1=C(C=C(C(=O)O)C=C1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C22H23F3N2O4
